US05026856
7-(4-methoxycarbonyl-2-isoindolinyl)-1-(4-fluorophenyl)-6,8- difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
170 mg of 1-(4-fluorophenyl)-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid, 109 mg of 4-methoxycarbonylisoindoline hydrochloride, 228 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 65 mg of the target compound.

reactant | 1-(4-fluorophenyl)-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 170 mg | FC1=CC=C(C=C1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H7F4NO3
reactant | 4-methoxycarbonylisoindoline hydrochloride | 109 mg | Cl.COC(=O)C1=C2CNCC2=CC=C1
reactant | DBU | 228 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-methoxycarbonyl-2-isoindolinyl)-1-(4-fluorophenyl)-6,8- difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 65 mg | COC(=O)C1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1F)C1=CC=C(C=C1)F)C(=O)O)=O)F | C26H17F3N2O5
